US08124629B2
To a solution of 2-trimethylsilanylethynyl-benzaldehyde (6 g, 29.70 mmol) in N,N-dimethylformamide (10 mL) was added potassium fluoride (1 g, 17.2 mmol). The reaction mixture was stirred at room temperature for 30 minutes. The resulting solution was poured into water, and then extracted with dichloromethane. The collected organic layers were dried over magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (RediSep® Flash column, 230-400 mesh, 0-25% ethyl acetate in hexane) gave 2-ethynyl-benzaldehyde (2.8 g, 73%) as a white solid. MS (ESI+) cald for C9H6O [(M+H)+] 130, obsd. 131.

reactant | 2-trimethylsilanylethynyl-benzaldehyde | 29.70 mmol, 6 g | C[Si](C#CC1=C(C=O)C=CC=C1)(C)C | C12H14OSi
reactant | potassium fluoride | 17.2 mmol, 1 g | [F-].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2-ethynyl-benzaldehyde | 2.8 g, 73% | C(#C)C1=C(C=O)C=CC=C1 | C9H6O
